US06984646B2
2-[1-(2-Fluorobenzoyl)-4,5-dimethyl-1H-imidazol-2-yl]-1-(2-fluorophenyl)ethenyl 2-fluorobenzoate
3.00 g (27.23 mmol) 2,4,5-trimethyl-1H-imidazol and 9.37 g (92.59 mmol) TEA are dissolved in 50 ml acetonitrile and cooled to 0° C. 14.25 g (89.87 mmol) 2-fluoro-benzoylchloride are added dropwise and the mixture is stirred 2 h at RT and let stand overnight. The solvent is removed under vacuum, the residue is dissolved in toluene and washed twice with water. The organic phase is filtered through Tonsil (K60) and concentrated under vacuum. The product is used without further purification.

reactant | 2,4,5-trimethyl-1H-imidazol | 27.23 mmol, 3.00 g | CC=1NC(=C(N1)C)C | C6H10N2
reactant | 2-fluoro-benzoylchloride | 89.87 mmol, 14.25 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[1-(2-Fluorobenzoyl)-4,5-dimethyl-1H-imidazol-2-yl]-1-(2-fluorophenyl)ethenyl 2-fluorobenzoate | FC1=C(C(=O)OC(=CC=2N(C(=C(N2)C)C)C(C2=C(C=CC=C2)F)=O)C2=C(C=CC=C2)F)C=CC=C1 | C27H19F3N2O3
